US04423262
ar-Dibromostyrene via Phase Transfer Catalyzed Dehydrobromination
A solution of 147.90 g. (0.431 mole) of 2-bromoethyl-dibromobenzene in 250 ml. of methylene chloride was stirred for 7 ks (2 hours) at 5 Hz (300 rpm) at 313 K. (40° C.) with 150 g (2.25 mole) of 60 percent sodium hydroxide solution and 3.12 g. (0.0124 mole) of triethylpentyl ammonium bromide. The product was washed with three 500-ml portions of water, dried over calcium sulfate (Drierite), and stripped of solvent in a rotary evaporator at a bath temperature of 323 K. (50° C.). The yield of product was 106.97 g. (77.2 percent of theory). GC analysis showed 27.1 percent of the desired ar-dibromostyrene, the remainder being largely unreacted starting material.

reactant | 2-bromoethyl-dibromobenzene | 0.431 mole | BrCCC=1C(=C(C=CC1)Br)Br | C8H7Br3
reactant | sodium hydroxide | 2.25 mole, 150 g | [OH-].[Na+]
reactant | triethylpentyl ammonium bromide | 0.0124 mole | [Br-].C(C)[N+](CCCCC)(CC)CC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Dibromostyrene | BrC(=CC1=CC=CC=C1)Br | C8H6Br2
